US08207177B2
Step a: 4-[(4-Chlorobenzyl)oxy]-7H-pyrrolo[2,3-d]pyrimidine
To a 0.375 M solution of aqueous potassium hydroxide (26.2 mL, 9.83 mmol) was added (4-chlorophenyl)methanol (464 mg, 3.26 mmol) and the mixture was heated to 80° C. for 30 min. Then 4-chloro-1H-pyrrolo[2,3-d]pyrimidine (500 mg, 3.26 mmol) was added and the mixture was refluxed at 130° C. After 6 h, additional (4-chlorophenyl)methanol (100. g, 0.701 mmol) was added and the solution was heated to 115° C. overnight. The reaction was cooled to rt and diluted with water. The solution was then extracted with EtOAc (2×) and DCM (2×). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. The resulting crude oil was purified by silica gel chromatography eluting with a gradient of 5 to 30% EtOAc in DCM to afford the product as a white solid (210 mg, 25%). LC/MS: Rt=1.72 min, ES+ 260. (FA standard).

reactant | potassium hydroxide | 9.83 mmol, 26.2 mL | [OH-].[K+]
reactant | (4-chlorophenyl)methanol | 3.26 mmol, 464 mg | ClC1=CC=C(C=C1)CO | C7H7ClO
reactant | 4-chloro-1H-pyrrolo[2,3-d]pyrimidine | 3.26 mmol, 500 mg | ClC1=C2C(NC=N1)=NC=C2 | C6H4ClN3
reactant | (4-chlorophenyl)methanol | 0.701 mmol | ClC1=CC=C(C=C1)CO | C7H7ClO
solvent | water | O | H2O
product | 4-[(4-Chlorobenzyl)oxy]-7H-pyrrolo[2,3-d]pyrimidine | 210 mg, 25% | ClC1=CC=C(COC=2C3=C(N=CN2)NC=C3)C=C1 | C13H10ClN3O
